US04271074
A mixture of 16.3 g (0.1 mol) of potassium 2,3-dimethylmaleimide (prepared by reacting 2,3-dimethylmaleimide with potassium methylate in methanol) and 150 ml of dry N,N-dimethylformamide is heated to 70° C. At this temperature, 19.8 g (0.1 mol) of 3-chloropropyltrimethoxysilane are added dropwise. After the exothermic reaction has subsided, the reaction mixture is kept at 70° C. for a further 2 hours, and after cooling to room temperature (20°-25° C.) the salt which has precipitated is filtered off. The N,N-dimethylformamide is distilled off under a high vacuum, under 13.333 Pa. The residue is taken up in a little dry diethyl ether, filtered again and, after removing the solvent, fractionated under a high vacuum. 16 g (56% of theory) of 3-(2,3-dimethylmaleimido)-propyl-trimethoxysilane are obtained; boiling point 112° C. (0.133 Pa).

reactant | potassium 2,3-dimethylmaleimide | 0.1 mol, 16.3 g | CC=1C(=O)NC(C1C)=O.[K]
reactant | 3-chloropropyltrimethoxysilane | 0.1 mol, 19.8 g | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 3-(2,3-dimethylmaleimido)-propyl-trimethoxysilane | 16 g, 56% | CC=1C(=O)N(C(C1C)=O)CCC[Si](OC)(OC)OC | C12H21NO5Si
